US05500417
4-Methylbenzylphosphonic acid, dimethyl ester
Following the procedure of Compound 11, 4-methylbenzyl bromide is reacted with trimethylphosphite.

reactant | 4-methylbenzyl bromide | CC1=CC=C(CBr)C=C1 | C8H9Br
reactant | trimethylphosphite | COP(OC)OC | C3H9O3P
product | 4-Methylbenzylphosphonic acid, dimethyl ester | CC1=CC=C(CP(OC)(OC)=O)C=C1 | C10H15O3P
